************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: EDFFXL
* View Name:     schematic
* Netlisted on:  Jun  4 07:42:37 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    EDFFXL
* View Name:    schematic
************************************************************************

.SUBCKT EDFFXL CK D E Q QN VDD VSS
*.PININFO CK:I D:I E:I VDD:I VSS:I Q:O QN:O
Mmn3 Db E n0 VSS g45n1svt m=1 l=45n w=145n
Mmn2 n0 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN qint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 Ckb net415 VSS g45n1svt m=1 l=45n w=145n
Mmn50 net415 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn35 net411 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKbb net411 VSS g45n1svt m=1 l=45n w=145n
Mmn20 Ckb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn56 qint qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 Eb E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb Ckb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=145n
Mmn1 qbint Eb Db VSS g45n1svt m=1 l=45n w=145n
Mmn25 Db Ckb n20 VSS g45n1svt m=1 l=45n w=145n
Mmp3 Db Eb n1 VDD g45p1svt m=1 l=45n w=215n
Mmp2 n1 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n30 CKbb net362 VDD g45p1svt m=1 l=45n w=215n
Mmp50 net362 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN qint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp35 net342 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp36 n20 Ckb net342 VDD g45p1svt m=1 l=45n w=215n
Mmp20 Ckb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp56 qint qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb Ckb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 Ckb mout VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=215n
Mmp0 Eb E VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 qbint E Db VDD g45p1svt m=1 l=45n w=215n
.ENDS

